US04853399
2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-(1h-1,2,4-triazolylmethyl)-4-ethyl-1,3-dioxolane
5.9 parts of 1,2,4-triazole sodium salt, a catalytic amount of potassium iodide and 12 parts of the 2-(2'-difluoromethoxy-4'-chlorophenyl)-2-bromomethyl-4-ethyl-1,3-dioxolane prepared in (b) are stirred in 100 ml of dimethylformamide for 16 hours at a bath temperature of 130° C. The reaction mixture is cooled to room temperature, poured into 500 ml of water and extracted with 2×300 ml of diethyl ether. The combined organic phases are washed with 2×200 ml of water, dried over sodium sulfate, filtered, and the solvent is removed by evaporation. The oily residue is chromatographed through a 50 cm column of silica gel with a 1:1 mixture of methylene chloride/diethyl ether as eluant. The eluant is removed by evaporation to give a yellow oil with a refractive index nD27 : 1.5132.

reactant | 1,2,4-triazole sodium salt | [Na].N1N=CN=C1
reactant | potassium iodide | [I-].[K+]
reactant | 2-(2'-difluoromethoxy-4'-chlorophenyl)-2-bromomethyl-4-ethyl-1,3-dioxolane | FC(OC1=C(C=CC(=C1)Cl)C1(OCC(O1)CC)CBr)F | C13H14BrClF2O3
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-(1h-1,2,4-triazolylmethyl)-4-ethyl-1,3-dioxolane | FC(OC1=C(C=CC(=C1)Cl)C1(OCC(O1)CC)CN1N=CN=C1)F | C15H16ClF2N3O3
